US05532240
A mixture of 334 mg of 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, 420 mg of 4-(6-fluoro-1-(4-fluorophenyl)-1H-indazol-3-yl)piperidine hydrochloride, 500 mg of potassium carbonate and 216 mg of potassium iodide in 10 ml of dimethylformamide and 10 ml of toluene was stirred at 85° C. for 8 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel to give 360 mg of 6-acetyl-3-(2-(4-(6-fluoro-1-(4-fluorophenyl)-1H-indazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 193°-196° C. as oxalate thereof.

reactant | 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 334 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
reactant | 4-(6-fluoro-1-(4-fluorophenyl)-1H-indazol-3-yl)piperidine hydrochloride | 420 mg | Cl.FC1=CC=C2C(=NN(C2=C1)C1=CC=C(C=C1)F)C1CCNCC1
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 216 mg | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-acetyl-3-(2-(4-(6-fluoro-1-(4-fluorophenyl)-1H-indazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 360 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C2=NN(C1=CC(=CC=C21)F)C2=CC=C(C=C2)F | C30H32F2N4OS
